US06699867B2
To a solution of 1 g of 2-amino-3-(4-methyl-piperazin1-yl)-1-propanol hydrochloride in 20 mL of absolute ethanol and 1.43 mL of triethylamine, about 0.78 mL of tert-butylisothiocyanate are added. The reaction mixture is stirred under inert atmosphere at a temperature of about 20° C. for 42 hours then is heated at a temperature of about 50° C. for 1 hour 30 min. After cooling at a temperature of about 20° C., the reaction medium is evaporated under reduced pressure (2 kPa) at a temperature of about 30° C. The residue thus obtained is taken up in 10 mL of water and 40 mL of dichloromethane. The aqueous phase is extracted with 2 times 30 mL of dichloromethane. The organic phases are collected, washed with 15 mL of water, dried over magnesium sulfate, filtered, then concentrated under reduced pressure (2 kPa) at a temperature of about 20° C. About 0.42 g of N-(tert-butyl)-N′-[2-hydroxy-1-(4-methyl-piperazin-1-ylmethyl)ethyl]thiourea are obtained in the form of a white paste. [Infrared spectrum between lamella of KBr 3279; 3075; 2939; 2806; 1533; 1459; 1359; 1295; 1204; 1010 and 821 cm−1].

reactant | 2-amino-3-(4-methyl-piperazin1-yl)-1-propanol hydrochloride | 1 g | Cl.NC(CO)CN1CCN(CC1)C
reactant | tert-butylisothiocyanate | about 0.78 mL | C(C)(C)(C)N=C=S | C5H9NS
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | triethylamine | 1.43 mL | C(C)N(CC)CC | C6H15N
solvent | water | 10 mL | O | H2O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-(tert-butyl)-N′-[2-hydroxy-1-(4-methyl-piperazin-1-ylmethyl)ethyl]thiourea | 0.42 g | C(C)(C)(C)NC(=S)NC(CO)CN1CCN(CC1)C | C13H28N4OS
